US08236808B2
Step 2: [4-(3-Bromo-propyl)-phenoxy]-acetic acid methyl ester
To a solution of [4-(3-Hydroxy-propyl)-phenoxy]-acetic acid methyl ester (2.45 g, 10.9 mmol) in DCM (60 mL) is added polymer-supported triphenylphosphine (7.26 g, 21.8 mmol) and carbon tetrabromide (3.47 g, 11.99 mmol) and the resulting reaction mixture is stirred at RT for 15 h. The reaction mixture is filtered to remove the polymer-supported reagent, and then concentrated in vacuo. The residue is purified by chromatography (SiO2, EtOAc:iso-hexane, 1:5) to yield the title compound. 1H NMR (400 MHz, CDCl3) δ 7.14 (2H, d), 6.86 (2H, d), 4.69 (2H, s), 3.83 (3H, s), 3.40 (2H, t), 2.74 (2H, t), 2.15 (2H, m).

reactant | [4-(3-Hydroxy-propyl)-phenoxy]-acetic acid methyl ester | 10.9 mmol, 2.45 g | COC(COC1=CC=C(C=C1)CCCO)=O | C12H16O4
reactant | triphenylphosphine | 21.8 mmol, 7.26 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 11.99 mmol, 3.47 g | C(Br)(Br)(Br)Br | CBr4
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
product | [4-(3-Bromo-propyl)-phenoxy]-acetic acid methyl ester | COC(COC1=CC=C(C=C1)CCCBr)=O | C12H15BrO3
